US07381719B2
Add triphenylphoshpine (3.90 g, 14.9 mmol) to a stirred solution of 3-chlorophenethyl alcohol (2.0 mL, 14.8 mmol), carbon tetrabromide (4.91 g, 14.8 mmol) and anhydrous dichloromethane (100 mL). Stir for 5 h under nitrogen at room temperature, and then wash with water (100 mL) and brine (100 mL). Dry the dichloromethane layer over magnesium sulfate, filter, and concentrate on a rotary evaporator to give the crude product. The crude product is purified by flash chromatography on silica gel eluting with 100% hexanes to yield 2.30 g (71%) of 1-(2-bromo-ethyl)-3-chloro-benzene: TLC: Rf in 100% hexanes: 0.27; 1H NMR (CDCl3): 7.26-7.11 (m, 3H), 7.09-7.07 (m, 1H), 3.54 (t, 2H), 3.12 (t, 2H).

reactant | 3-chlorophenethyl alcohol | 14.8 mmol, 2.0 mL | ClC=1C=C(CCO)C=CC1 | C8H9ClO
reactant | carbon tetrabromide | 14.8 mmol, 4.91 g | C(Br)(Br)(Br)Br | CBr4
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | 1-(2-bromo-ethyl)-3-chloro-benzene | 2.30 g, 71% | BrCCC1=CC(=CC=C1)Cl | C8H8BrCl
